US08859602B2
b) 4-(4-Nitro-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carboxylic acid amide
A solution of 4-(4-nitro-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carbonitrile (as prepared in the previous step) in ethanol and water is treated with NaBO3 (Synthetic Communications, 20(4), 563-71, (1990)). The mixture is diluted with EtOAc and washed with water. The organic layer is dried (MgSO4) and concentrated in vacuo. The residue is purified by silica gel chromatography with the appropriate solvent to afford the title compound.

reactant | 4-(4-nitro-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carbonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCS(CC1)(=O)=O)C#N | C12H12N2O4S
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-Nitro-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carboxylic acid amide | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCS(CC1)(=O)=O)C(=O)N | C12H14N2O5S
